US05405829
i) 3-Methoxycarbonyl-5-hydroxy-1-methylpyrazole
102.3 g (0.72 mol) dimethyl acetylenedicarboxylate was added to 1000 ml ether and cooled to -5° C. in an ice-methanol bath. 33 g (0.72 mol) Methylhydrazine in 100 ml ether was added dropwise so that the inner temperature did not rise above 0° C. The mixture was stirred for 1 hour at 0° C., the precipitate filtered off, washed with ether and dried in vacuo at 40° C. The intermediate was immersed for 10 minutes in an oil bath heated to 120° C. The reduction product was recrystallised from methanol.

reactant | dimethyl acetylenedicarboxylate | 0.72 mol, 102.3 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | Methylhydrazine | 0.72 mol, 33 g | CNN | CH6N2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 1000 ml | CCOCC | C4H10O
product | 3-Methoxycarbonyl-5-hydroxy-1-methylpyrazole | COC(=O)C1=NN(C(=C1)O)C | C6H8N2O3
